US06251923B1
N-(3,5-Dichloropyridin-4-yl)-2-[1-(4-fluorobenzyl)-5-hydroxyindol-3-yl]-2-oxoacetamide
1.4 g of N-(3,5-dichloropyridin-4-yl)-2-[1-(4-fluorobenzyl)-5-methoxyindol-3-yl]-2-oxoacetamide (3 mmol) is dissolved in 100 ml of dichloromethane. The solution is heated to reflux and treated with a solution of 14 mmol of BBr3 in 15 ml of dichloromethane with stirring. The reaction mixture is refluxed for 3 hours. After cooling, the solution is intensively stirred for 3 hours at 20° C. with 200 ml of an aqueous sodium hydrogencarbonate solution. The product crystallizes out, it is isolated, dried at 60° C. and recrystallized from 80 ml of ethanol.

reactant | N-(3,5-dichloropyridin-4-yl)-2-[1-(4-fluorobenzyl)-5-methoxyindol-3-yl]-2-oxoacetamide | 3 mmol, 1.4 g | ClC=1C=NC=C(C1NC(C(=O)C1=CN(C2=CC=C(C=C12)OC)CC1=CC=C(C=C1)F)=O)Cl | C23H16Cl2FN3O3
reactant | BBr3 | 14 mmol | B(Br)(Br)Br | BBr3
reactant | sodium hydrogencarbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-(3,5-Dichloropyridin-4-yl)-2-[1-(4-fluorobenzyl)-5-hydroxyindol-3-yl]-2-oxoacetamide | ClC=1C=NC=C(C1NC(C(=O)C1=CN(C2=CC=C(C=C12)O)CC1=CC=C(C=C1)F)=O)Cl | C22H14Cl2FN3O3
